### PR TITLE
Split monics/epis, (co)reflective subcategories, adjunction lemmas

### PR DESCRIPTION
**Pull request by siddharthist**
While trying to show that the localization of a reflective subcategory is idempotent, I noticed that I needed... a few other things.

### CODE REVIEW

File: UniMath/CategoryTheory/Adjunctions/Core.v [hunk 1]
```diff
@@ -844,4 +849,193 @@ Proof.
...
+    apply (isMonic_postcomp _ _ _ is0).
+  Qed.
+
+  Corollary is_monic_post_whisker_left_adjoint_unit : isMonic Fη.
+  Proof.
+    apply is_nat_trans_monic_from_pointwise_monics.
+    apply is_monic_post_whisker_left_adjoint_unit_pointwise.
+  Qed.
+
+  (** Rhiel, "Category Theory in Context", Lemma 4.5.13(i)/Exercise 4.5.vi *)
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Adjunctions/Core.v]:
```suggestion
  (** Riehl, "Category Theory in Context", Lemma 4.5.13(i)/Exercise 4.5.vi *)
```

File: UniMath/CategoryTheory/Adjunctions/Core.v [hunk 2]
```diff
@@ -844,4 +849,193 @@ Proof.
...
+    intros iss b.
+    specialize (iss (w b)).
+    apply (squash_to_prop iss); [apply isapropishinh|].
+    intros a; apply hinhpr.
+    exists (hfiberpr1 _ _ a).
+    apply (weqpair _ (isweqmaponpaths w _ _)).
+    apply (hfiberpr2 _ _ a).
+  Qed.
+
+  (** Rhiel, "Category Theory in Context", Lemma 4.5.13(ii)/Exercise 4.5.vi
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/Adjunctions/Core.v]:
```suggestion
  (** Riehl, "Category Theory in Context", Lemma 4.5.13(ii)/Exercise 4.5.vi
```

**Comment by benediktahrens** [comment]
There is a question of whether a coreflection should be a particular subcategory, or if a coreflection should be an adjunction where one of unit/counit is an isomorphism.

I prefer the latter definition. I think this definition might be available somewhere already (maybe in UniMath/largecatmodules).

File: UniMath/CategoryTheory/Adjunctions/Core.v (hunk 1 above)
Comment (siddharthist) [reply UniMath/CategoryTheory/Adjunctions/Core.v]: Thanks, I think the title of my PDF of the book is misspelled haha

**Comment by siddharthist** [comment]
I have rebased and dropped the definition of coreflective subcategories.

**Comment by benediktahrens** [comment]
```
COQC UniMath/CategoryTheory/categories/HSET/Structures.v
File "./UniMath/CategoryTheory/categories/HSET/Structures.v", line 359, characters 45-57:
Error: The reference EpisAreSplit was not found in the current environment.
```

**Comment by benediktahrens** [comment]
```
error: *** file UniMath/CategoryTheory/Subcategory/Reflective.v not listed in appropriate file UniMath/*/.package/files
error: *** 1 unlisted proof files encountered
Makefile:391: recipe for target 'check-listing-of-proof-files' failed
make: *** [check-listing-of-proof-files] Error 1
```

File: UniMath/CategoryTheory/SplitMonicsAndEpis.v [hunk 3]
```diff
@@ -0,0 +1,294 @@
...
+      {A B : ob C} (f : C⟦A,B⟧) :
+  is_split_epi f -> is_split_epi (# F f).
+Proof.
+  intro hf.
+  exists (#F (pr1 hf)).
+  unfold is_retraction.
+  now rewrite <- functor_id, <- (pr2 hf), <- functor_comp.
+Qed.
+
+Definition epis_are_split (C : precategory) :=
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/SplitMonicsAndEpis.v]: The name of this definition is wrong, and needs to be corrected.

Comment (siddharthist) [reply UniMath/CategoryTheory/SplitMonicsAndEpis.v]: @benediktahrens I just copied that blindly from the previous file, apologies. Are you thinking `epis_are_merely_split`? Or something else?

File: UniMath/CategoryTheory/categories/HSET/Structures.v [hunk 4]
```diff
@@ -357,7 +358,7 @@ Qed.
 
 (** ** Split epis with axiom of choice ([SplitEpis_HSET]) *)
 
-Lemma SplitEpis_HSET : AxiomOfChoice_surj -> EpisAreSplit HSET.
+Lemma SplitEpis_HSET : AxiomOfChoice_surj -> epis_are_split HSET.
```
Comment (benediktahrens) [inline UniMath/CategoryTheory/categories/HSET/Structures.v]: @siddharthist : this lemma now ahs a different meaning from before. This is not acceptable, since it breaks other code.

This is due to the incorrect naming of `epis_are_split`.

Can you please reconstitute the previous meaning of this lemma?

**Comment by benediktahrens** [comment]
On 28/04/2019 22:07, Langston Barrett wrote:
> *@siddharthist* commented on this pull request.
> 
> ------------------------------------------------------------------------
> 
> In UniMath/CategoryTheory/SplitMonicsAndEpis.v 
> <https://github.com/UniMath/UniMath/pull/1205#discussion_r279212230>:
> 
>> +  exists (#F (pr1 hf)).
> +  now rewrite <-functor_id,<- (pr2 hf), <- functor_comp.
> +Qed.
> +
> +(** Functors preserve split epimorphisms *)
> +Lemma functor_preserves_split_epi {C D : precategory} (F : functor C D)
> +      {A B : ob C} (f : C⟦A,B⟧) :
> +  is_split_epi f -> is_split_epi (# F f).
> +Proof.
> +  intro hf.
> +  exists (#F (pr1 hf)).
> +  unfold is_retraction.
> +  now rewrite <- functor_id, <- (pr2 hf), <- functor_comp.
> +Qed.
> +
> +Definition epis_are_split (C : precategory) :=
> 
> @benediktahrens <https://github.com/benediktahrens> I just copied that 
> blindly from the previous file, apologies. Are you thinking 
> |epis_are_merely_split|? Or something else?

Oh, wait, I am confused. Let me look more closely, sorry for that!

I am trying to bring UniMath/largecatmodules up to date, and there is a 
problem in one of the files relating to this change with split epis etc.

**Comment by siddharthist** [comment]
@benediktahrens No problem at all, just let me know if something needs to be fixed!

**Comment by benediktahrens** [comment]
On 28/04/2019 22:07, Langston Barrett wrote:
> *@siddharthist* commented on this pull request.
> 
> ------------------------------------------------------------------------
> 
> In UniMath/CategoryTheory/SplitMonicsAndEpis.v 
> <https://github.com/UniMath/UniMath/pull/1205#discussion_r279212230>:
> 
>> +  exists (#F (pr1 hf)).
> +  now rewrite <-functor_id,<- (pr2 hf), <- functor_comp.
> +Qed.
> +
> +(** Functors preserve split epimorphisms *)
> +Lemma functor_preserves_split_epi {C D : precategory} (F : functor C D)
> +      {A B : ob C} (f : C⟦A,B⟧) :
> +  is_split_epi f -> is_split_epi (# F f).
> +Proof.
> +  intro hf.
> +  exists (#F (pr1 hf)).
> +  unfold is_retraction.
> +  now rewrite <- functor_id, <- (pr2 hf), <- functor_comp.
> +Qed.
> +
> +Definition epis_are_split (C : precategory) :=
> 
> @benediktahrens <https://github.com/benediktahrens> I just copied that 
> blindly from the previous file, apologies. Are you thinking 
> |epis_are_merely_split|? Or something else?

@siddharthist

My confusion came from the fact that I initially thought that the old
`isSplitEpi_isEpi` translated to `is_split_epi_is_epi`. But I have now 
understood that the previous `isSplitEpi` was a bad name, and is now 
better named with "merely" occurring in the name.

Thanks for this reorganization and the better naming brought by this PR!

**Comment by DanGrayson** [comment]
I'm not sure `isSplitEpi` was a bad name, since "is" conveys the idea of being a property.  But, if you insist, better than adding "merely" would be to use "is_splittable_epi", if the problem is that split maps come with a splitting map as part of the data.
